US05846990
N-[[2'-[[(3,4-Dimethyl-5-isoxazolyl)amino]sulfonyl]-4-(2-oxazolyl)[1,1'-biphenyl]-2-yl]methyl]-N-methyl-1H-indole-2-carboxamide
To a solution of 0.05 g (0.114 mmol) of N-(3,4-dimethyl-5-isoxazolyl)-2'-[(methylamino)methyl]-4'-(2-oxazolyl)[1,1'-biphenyl]-2-sulfonamide prepared as described in step A of Example 28 in 2 mL of CH2Cl2 and 0.1 mL DMF, 0.018 g (0.114 mmol) of indole-2-carboxylic acid and 0.021 g (0.142 mmol) of 1,3-diisopropylcarbodiimide were added. The mixture was then stirred at room temperature for 12 hr and evaporated. The residue was purified by reverse phase preparative HPLC on a 30×500 mm ODS S10 column using 80% solvent B (90% MeOH, 10% H2O, 0.1% TFA) and 20% solvent A (10% MeOH, 90% H2O, 0.1% TFA). The appropriate fractions were collected and neutralized with aqueous sodium bicarbonate to pH 7 and concentrated to 10 mL. The solution was then acidified to pH 4 using aqueous sodium bisulfate and the white solid was filtered and dried to provide 0.024 g (36%) of the title compound of this Example as a white solid. m.p. 135°-145° C.

reactant | N-(3,4-dimethyl-5-isoxazolyl)-2'-[(methylamino)methyl]-4'-(2-oxazolyl)[1,1'-biphenyl]-2-sulfonamide | 0.114 mmol, 0.05 g | CC1=NOC(=C1C)NS(=O)(=O)C=1C(=CC=CC1)C1=C(C=C(C=C1)C=1OC=CN1)CNC | C22H22N4O4S
reactant | indole-2-carboxylic acid | 0.114 mmol, 0.018 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1,3-diisopropylcarbodiimide | 0.142 mmol, 0.021 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | N-[[2'-[[(3,4-Dimethyl-5-isoxazolyl)amino]sulfonyl]-4-(2-oxazolyl)[1,1'-biphenyl]-2-yl]methyl]-N-methyl-1H-indole-2-carboxamide | 0.024 g, 36% | CC1=NOC(=C1C)NS(=O)(=O)C1=C(C=CC=C1)C1=C(C=C(C=C1)C=1OC=CN1)CN(C(=O)C=1NC2=CC=CC=C2C1)C | C31H27N5O5S
